US05145865
(2) 4-[1-(4-Methanesulfonyloxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoic acid
Methyl 4-[1-(4-methanesulfonyloxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate (1.78 g) is dissolved in dioxane (20 ml) and thereto is added a solution of sodium hydroxide (0.34 g) in water (5 ml). The mixture is stirred at room temperature for 16 hours. After adding conc. hydrochloric acid (about 0.7 ml), the reaction mixture is concentrated under reduced pressure. Water is added to the resulting residue and the precipitate is collected by filtration, washed with water and recrystallized from about 15% aqueous methanol to give the desired product (1.43 g), m.p. 199°-201° C.

reactant | Methyl 4-[1-(4-methanesulfonyloxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoate | 1.78 g | CS(=O)(=O)OC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)OC)C=C1)=O | C20H21NO7S
reactant | sodium hydroxide | 0.34 g | [OH-].[Na+]
reactant | hydrochloric acid | about 0.7 ml | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 4-[1-(4-Methanesulfonyloxyphenyl)-2-pyrrolidon-4-yl]methoxybenzoic acid | 1.43 g | CS(=O)(=O)OC1=CC=C(C=C1)N1C(CC(C1)COC1=CC=C(C(=O)O)C=C1)=O | C19H19NO7S
